US05006651
0.36 g of benzyl(S)-2-[[(S)-1-[[[ethoxy[(RS)-4-methyl-2-[[(S)-3-methyl-1-(methylcarbamoyl)butyl]carbamoyl]pentyl]phosphinyl]methyl]carbamoyl]-3-methylbutyl]carbamoyl]-1-pyrrolidinecarboxylate was dissolved in 5 ml of ethanol containing 0.5 ml of 1 M hydrochloric acid. The solution was hydrogenated over 5% palladium-on-charcoal for 2 hours. After filtration and evaporation of the filtrate, the residue was re-evaporated with toluene until a white solid was obtained. This solid was dissolved in 6 ml of dichloromethane. The solution was cooled to 0° C. and treated with 0.15 ml of triethylamine and 0.064 ml of benzoyl chloride. The mixture was stirred at room temperature for 16 hours and the solvent was then removed by evaporation. The residue was dissolved in ethyl acetate. The mixture was filtered and the filtrate was evaporated to give a pale yellow gum. Chromatography on silica gel using 3% ethanol in chloroform for the elution followed by evaporation yielded 0.32 g of [[ [N-(1-benzoyl-L-prolyl)-L-leucyl]amino]methyl][(RS)-4-methyl-2-[[(S)-3-methyl-1-(methylcarbamoyl)butyl]carbamoyl]pentyl]phosphinic acid ethyl ester in the form of a white foam.

reactant | benzyl(S)-2-[[(S)-1-[[[ethoxy[(RS)-4-methyl-2-[[(S)-3-methyl-1-(methylcarbamoyl)butyl]carbamoyl]pentyl]phosphinyl]methyl]carbamoyl]-3-methylbutyl]carbamoyl]-1-pyrrolidinecarboxylate | 0.36 g | C(C)OP(=O)(CC(CC(C)C)C(N[C@@H](CC(C)C)C(NC)=O)=O)CNC(=O)[C@H](CC(C)C)NC(=O)[C@H]1N(CCC1)C(=O)OCC1=CC=CC=C1 | C36H60N5O8P
reactant | triethylamine | 0.15 ml | C(C)N(CC)CC | C6H15N
reactant | benzoyl chloride | 0.064 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | ethanol | 5 ml | C(C)O | C2H6O
solvent | hydrochloric acid | 1 M | Cl | ClH
solvent | dichloromethane | 6 ml | ClCCl | CH2Cl2
catalyst | palladium-on-charcoal | [Pd] | Pd
product | [[ [N-(1-benzoyl-L-prolyl)-L-leucyl]amino]methyl][(RS)-4-methyl-2-[[(S)-3-methyl-1-(methylcarbamoyl)butyl]carbamoyl]pentyl]phosphinic acid ethyl ester | 0.32 g | C(C)OP(=O)(CC(CC(C)C)C(N[C@@H](CC(C)C)C(NC)=O)=O)CNC([C@@H](NC([C@H]1N(CCC1)C(C1=CC=CC=C1)=O)=O)CC(C)C)=O | C35H58N5O7P
